US07176255B2
Preparation of N-nonylperylene-3,4-dicarboximide (dye 10)
A mixture of 5 g (15.5 mmol) of perylene-3,4-dicarboxylic anhydride (prepared in accordance with Liebigs Ann. 1995, 1229–1244), 2.44 g (17 mmol) of n-nonylamine and 75 ml of N-methylpyrrolidone (NMP) was heated at 175° C. under nitrogen for 1.5 h. After cooling to room temperature, the resulting precipitate was filtered off, washed with methanol and dried under reduced pressure at 80° C. This gave 5.5 g (79%) of the desired product in the form of dark red crystals having a melting point of 201° C.

reactant | perylene-3,4-dicarboxylic anhydride | 15.5 mmol, 5 g | C1=CC2=C3C(=CC=C4C5=CC=CC6=CC=CC(C1=C34)=C56)C(=O)OC2=O | C22H10O3
reactant | n-nonylamine | 17 mmol, 2.44 g | C(CCCCCCCC)N | C9H21N
solvent | N-methylpyrrolidone | 75 ml | CN1C(CCC1)=O | C5H9NO
product | N-nonylperylene-3,4-dicarboximide | C(CCCCCCCC)N1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C31H29NO2
